US04140789
A solution of 16.1 g of crude 1-(N-benzyl-tert.-butylamino)-3-(2-hydroxy-3-nitro-phenoxy)-2-propanol in 150 ml of ethanol is reduced, analogously to Example 4(d), with 15 ml of hydrazine hydrate and Raney nickel to give 1-(N-benzyl-tert.-butylamino)-3-(3-amino-2-hydroxy-phenoxy)-2-propanol. The base forms a dark oil which is used further without further purification. The base crystallises from ether as greenish crystals with a melting point of 105°-110°.

reactant | 1-(N-benzyl-tert.-butylamino)-3-(2-hydroxy-3-nitro-phenoxy)-2-propanol | 16.1 g | C(C1=CC=CC=C1)N(CC(COC1=C(C(=CC=C1)[N+](=O)[O-])O)O)C(C)(C)C | C20H26N2O5
reactant | hydrazine hydrate | 15 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 1-(N-benzyl-tert.-butylamino)-3-(3-amino-2-hydroxy-phenoxy)-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=C(C(=CC=C1)N)O)O)C(C)(C)C | C20H28N2O3
